US04594098
Methyl 2-(dimethylphosphinoyl)-2-hydroxy-acetate
A solution of 17.6 g (0.2 mol) of methyl glyoxylate in 30 ml of dioxane is added dropwise to a solution of 15.6 g (0.2 mol) of dimethylphosphine oxide in 50 ml of dioxane. A spatula-tip of sodium methylate is added, the mixture is stirred at 25° C. for 24 hours and the evaporated residue is freed from adhering dioxane under a high vacuum and taken up in ethyl acetate to give, after trituration, 16.4 g (49.4%) of colorless product of melting point 84°-86°.

reactant | methyl glyoxylate | 0.2 mol, 17.6 g | C(C=O)(=O)OC | C3H4O3
reactant | dimethylphosphine oxide | 0.2 mol, 15.6 g | CP(C)=O | C2H7OP
reactant | sodium methylate | C[O-].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(dimethylphosphinoyl)-2-hydroxy-acetate | CP(=O)(C(C(=O)OC)O)C | C5H11O4P
